US09085606B2
Preparation of 5-bromo-3-tert-butyl-2-[(2-methoxyethoxy)methoxy]benzaldehyde
A mixture of 5-bromo-3-(tert-butyl)-2-hydroxybenzaldehyde (4.74 g, 18.42 mmol) and anhydrous potassium carbonate (2.83 g, 20.45 mmol) in anhydrous DMF (20.0 mL) was stirred under nitrogen in a water bath (20° C.) to give an orange-yellow suspension. After stirring for 20 min, 2-methoxyethoxymethyl chloride (2.40 mL, 21.19 mmol, technical grade) was added drop wise (20 min) to above suspension while maintaining an internal temperature of 20° C. The reaction mixture was stirred at room temperature for 3 h to give a canary yellow suspension. The reaction mixture was poured into ice-water (150 mL) and stirred at room temperature to give a yellow oily liquid, no solid formation was observed. After 30 min of stirring, the reaction mixture was extracted with dichloromethane (2×75 mL). The organic layer was removed, washed with water (1×50 mL) and dried over anhydrous magnesium sulfate, filtered and evaporated in-vacuo to give a pale yellow viscous liquid (6.7832 g). No purification was necessary and the crude product (purity >97%) was used directly in the next Step #3.

reactant | 5-bromo-3-(tert-butyl)-2-hydroxybenzaldehyde | 18.42 mmol, 4.74 g | BrC=1C=C(C(=C(C=O)C1)O)C(C)(C)C | C11H13BrO2
reactant | potassium carbonate | 20.45 mmol, 2.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxyethoxymethyl chloride | 21.19 mmol, 2.40 mL | COCCOCCl | C4H9ClO2
solvent | DMF | 20.0 mL | CN(C)C=O | C3H7NO
product | 5-bromo-3-tert-butyl-2-[(2-methoxyethoxy)methoxy]benzaldehyde | 6.7832 g | BrC=1C=C(C(=C(C=O)C1)OCOCCOC)C(C)(C)C | C15H21BrO4
